*------------------------------------------------------------------------------
*------------------------------------------------------------------------------


*------------------------------------------------------------------------------
*------------------------------------------------------------------------------
.lib BSS_CMOS

*------------------------------------------------------------------------------
*    NMOS
*    ZETEX BSS138 Spice Model v2.0 Last Revised 5/4/07
*------------------------------------------------------------------------------
.SUBCKT BSS138 3 4 5
    * NODES: DRAIN GATE SOURCE
    M1 3 2 5 5 MOD1
    RG 4 2 20
    RL 3 5 6E6
    C1 2 5 30E-12
    C2 3 2 1E-12 
    C3 7 5 58E-12
    D1 5 3 Dmod1
    D2 6 3 Dmod2
    Egs1 2 6 2 5 1
    Egs2 8 5 2 5 1
    S1 2 7 3 2 SMOD1a
    S2 7 8 3 2 SMOD1b
    
	.MODEL MOD1 NMOS (VTO=1 RS=1.58 RD=0.0 IS=1E-15 KP=0.395 CBD=53.5E-12 PB=1 LAMBDA=267E-6)
	.MODEL Dmod1 D (IS=1.254E-13 N=1.0207 RS=0.222)
	.MODEL Dmod2 D (CJO=40E-12)
	.MODEL SMOD1a VSWITCH (RON=1e-2 ROFF=1e4  VON=-1 VOFF=1)
	.MODEL SMOD1b VSWITCH (RON=1e-2 ROFF=1e4  VON=1 VOFF=-1)
.ENDS BSS138

*------------------------------------------------------------------------------
*    PMOS
*    ZETEX BSS84 Spice Model v1.1 Last Revised 3/5/00
*------------------------------------------------------------------------------
.SUBCKT BSS84 3 4 5
    * NODES: DRAIN GATE SOURCE
    M1 3 2 5 5 MOD1
    RG 4 2 167
    RL 3 5 50E6
    C1 2 5 26P
    C2 3 2 4P 
    D1 3 5 DIODE1

    .MODEL MOD1 PMOS (VTO=-1.709 RS=3.091 RD=0.979 IS=1E-15 KP=0.146 CBD=12P PB=1)
    .MODEL DIODE1 D (IS=1.072E-13 RS=0.527 N=1.077)
.ENDS BSS84

.endl BSS_CMOS ***

