*------------------------------------------------------------------------------
*------------------------------------------------------------------------------
.lib 'BSS_CMOS.lib' BSS_CMOS

*------------------------------------------------------------------------------
.subckt nmos_t2 dr gt src
  	X1 dr gt src BSS138
.ends nmos_t2

*------------------------------------------------------------------------------
.subckt pmos_t2 dr gt src
  	X1 dr gt src BSS84
.ends pmos_t2

